US07067658B2
To a solution of 2-benzyloxy-4-chloro-3-nitro-pyridine (Wilde, et al. WO 99/01454, which is incorporated herein by reference) (6.59 g, 24.9 mmol) in DME/H2O, was added 2-chloro-4-difluoromethoxy-phenylboronic acid (Wilde, et al. WO 99/01454) (5.54 g, 24.9 mmol), Ba(OH)2 8H2O (7.86 g, 24.9 mmol), and Pd(PPh3)2Cl2 (1.01 g, 1.45 mmol) and the mixture was heated at reflux for 5 h. The reaction was cooled and poured into EtOAc and H2O (500 mL). The EtOAc layer was washed with H2O, brine, dried Na2SO4, filtered and concentrated in vacuo to give 6.9 g (68%) of 2-benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine as a viscous oil; MS(AP) m/z 408.9 [(M+H)+, 100].

reactant | 2-benzyloxy-4-chloro-3-nitro-pyridine | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])Cl | C12H9ClN2O3
reactant | 2-chloro-4-difluoromethoxy-phenylboronic acid | 24.9 mmol, 5.54 g | ClC1=C(C=CC(=C1)OC(F)F)B(O)O | C7H6BClF2O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | H2O | 500 mL | O | H2O
solvent | DME H2O | COCCOC.O
catalyst | Pd(PPh3)2Cl2 | 1.45 mmol, 1.01 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-benzyloxy-4-(2-chloro-4-difluoromethoxy-phenyl)-3-nitro-pyridine | 6.9 g, 68% | C(C1=CC=CC=C1)OC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC(F)F)Cl | C19H13ClF2N2O4
